US07872009B2
Step 2: 2-(2-Bromo-5-fluorophenyl)-N-methoxy-N -methylcyclopropane-carboxamide
Sodium hydride (60%, 122 mg, 3.05 mmol, Aldrich) was added to a suspension of trimethylsulfoxonium iodide (671 mg, 3.05 mmol, Aldrich) in DMSO (6 mL). The mixture was stirred at 25° C. for 30 min, and (E)-3-(2-bromo-5-fluorophenyl)-N-methoxy-N-methylacrylamide was added as a solution in DMSO (3 mL). The mixture was stirred at 25° C. for 12 h, then transferred to a separatory funnel with H2O (40 mL), and the title compound was extracted using 75% ether/hexane (3×40 mL). The organic layer was dried over sodium sulfate and concentrated. Purification by flash column chromatography (33% EtOAc/hexane) afforded the title compound as a colorless oil. MS m/z: 302 and 304 (M+1).

reactant | Sodium hydride | 3.05 mmol, 122 mg | [H-].[Na+]
reactant | trimethylsulfoxonium iodide | 3.05 mmol, 671 mg | [I-].C[S+](=O)(C)C
reactant | (E)-3-(2-bromo-5-fluorophenyl)-N-methoxy-N-methylacrylamide | BrC1=C(C=C(C=C1)F)/C=C/C(=O)N(C)OC | C11H11BrFNO2
reactant | H2O | 40 mL | O | H2O
solvent | DMSO | 6 mL | CS(=O)C | C2H6OS
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
product | 2-(2-Bromo-5-fluorophenyl)-N-methoxy-N -methylcyclopropane-carboxamide | BrC1=C(C=C(C=C1)F)C1C(C1)C(=O)N(C)OC | C12H13BrFNO2
